US04436748
A mixture of 2.1 g of 6,7-dichloro-5-hydroxy 2-methylbenzo[b]thiophene, 1.88 g of ethyl bromoacetate, 20 ml of 2-butanone, 2 ml of dimethylformamide and 4.0 g of sodium bicarbonate is refluxed for 16 hours. The cooled mixture is diluted with ice, extracted 3 times with ether and the ether solution is washed, dried and concentrated. The crude oil after removal of solvent is purified by passing it through an alumina column. Elution with ether gives 2.7 g of ethyl[ (6,7-dichloro-2-methylbenzo[b]thien-5-yl)oxy]acetate as off-white crystals, mp 91°-92°. An analytical sample is recrystallized twice from hexane and dried at 80°.

reactant | 6,7-dichloro-5-hydroxy 2-methylbenzo[b]thiophene | 2.1 g | ClC=1C(=CC2=C(SC(=C2)C)C1Cl)O | C9H6Cl2OS
reactant | ethyl bromoacetate | 1.88 g | BrCC(=O)OCC | C4H7BrO2
reactant | 2-butanone | 20 ml | CC(CC)=O | C4H8O
reactant | sodium bicarbonate | 4.0 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | ethyl[ (6,7-dichloro-2-methylbenzo[b]thien-5-yl)oxy]acetate | 2.7 g | C(C)OC(COC1=CC2=C(SC(=C2)C)C(=C1Cl)Cl)=O | C13H12Cl2O3S
